US04057647
1 g. of 3-(3',4'-dichloro-4-biphenylyl)-3-hydroxybutyric acid and 0.1 g. of p-toluenesulfonic acid in 35 ml. of toluene are heated under reflux for 3 hours and water by-product is removed. The reaction mixture is worked up to give 3-(3',4'-dichloro-4-biphenylyl)-2-butenoic acid.

reactant | 3-(3',4'-dichloro-4-biphenylyl)-3-hydroxybutyric acid | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CC(=O)O)(C)O | C16H14Cl2O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(3',4'-dichloro-4-biphenylyl)-2-butenoic acid | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(=CC(=O)O)C | C16H12Cl2O2
